US06313119B1
f) (2S)-2-(Naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid tert-butyl ester
47 mg (0.087 mmol) of (2S)-3-(4-(2-methoxycarbonyl-ethyl)-benzoylamino)-2-(naphthalene-1-sulfonylamino)-propionic acid tert-butyl ester was dissolved in 2 ml of dimethylformamide and 86 mg (0.87 mmol) of 2-amino-1,4,5,6-tetrahydropyrimidine was added. The reaction was stirred at room temperature for 20 hours. The solvent was removed in vacuo and the residue was chromatographed on silica gel eluting with dichloromethane/methanol (1/1), followed by dichloromethane/methanol/acetic acid/water (85/15/1.5/1.5). Yield 46 mg. MS (ES+): m/e=608.3 (M+H+).

reactant | (2S)-3-(4-(2-methoxycarbonyl-ethyl)-benzoylamino)-2-(naphthalene-1-sulfonylamino)-propionic acid tert-butyl ester | 0.087 mmol, 47 mg | C(C)(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(=O)OC)=O)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C28H32N2O7S
reactant | 2-amino-1,4,5,6-tetrahydropyrimidine | 0.87 mmol, 86 mg | NC=1NCCCN1 | C4H9N3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (2S)-2-(Naphthalene-1-sulfonylamino)-3-(4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-ethyl)-benzoylamino)-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(NC=1NCCCN1)=O)=O)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C31H37N5O6S
